US05494666
d1) t-Butyl (1S,4R,5R)-4-[3-(t-butyl-dimethyl-silanyloxy)-2-oxo-propyl]-6-(2,4-dimethoxy-benzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate
The above-prepared mixture of benzyl (Z) and (E)-(1S,5R)-4-[3-(t-butyl-dimethyl-silanyloxy)-2-oxo-propylidene]-6-(2,4-dimethoxybenzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate (76 g; maximum 73.8 mmol) was dissolved in methanol (900 ml), treated with di-t-butyl dicarbonate (24.4 ml; 112 mmol) and hydrogenated over 10% Pd/C (9 g). After 1.5 hours the reaction mixture was suction filtered, concentrated and chromatographed over silica gel (400 g; 0.063-0.2 mm particle size) with ethyl acetate/n-hexane 1:4. The solid residue obtained was triturated with n-hexane (200 ml) and filtered off under suction. Yield: 17 g (42%) as a colourless powder.

reactant | (E)-(1S,5R)-4-[3-(t-butyl-dimethyl-silanyloxy)-2-oxo-propylidene]-6-(2,4-dimethoxybenzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate | 73.8 mmol, 76 g | C(C)(C)(C)[Si](OCC(\C=C\1/CN([C@@H]2C(N([C@H]12)CC1=C(C=C(C=C1)OC)OC)=O)C(=O)[O-])=O)(C)C
reactant | di-t-butyl dicarbonate | 112 mmol, 24.4 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 900 ml | CO | CH4O
catalyst | Pd/C | 9 g | [Pd] | Pd
product | t-Butyl (1S,4R,5R)-4-[3-(t-butyl-dimethyl-silanyloxy)-2-oxo-propyl]-6-(2,4-dimethoxy-benzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate | C(C)(C)(C)[Si](OCC(C[C@@H]1CN([C@@H]2C(N([C@H]12)CC1=C(C=C(C=C1)OC)OC)=O)C(=O)OC(C)(C)C)=O)(C)C | C28H44N2O7Si
